US05236849
2. Preparation of maleimide-dinitrophenyl-L-lysine
An aliquot (1.5 ml) of 8.8 mM dinitrophenyl-L-lysine (Tokyo Kasei, Tokyo, Japan) in 0.1M sodium phosphate buffer, pH 7.0, containing 5 mM EDTA was incubated with 0.15 ml of 8.8 mM N-succinimidyl-6-maleimidohexanoate (Dojin Kagaku, Kumamoto, Japan) in N,N-dimethylformamide at 30° C. for 30 minutes.

reactant | dinitrophenyl-L-lysine | 8.8 mM, 1.5 ml | [N+](=O)([O-])[C@](N(C1=CC=CC=C1)[N+](=O)[O-])(CCCCN)C(=O)O | C12H16N4O6
reactant | EDTA | 5 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | sodium phosphate | 0.1M | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
product | maleimide dinitrophenyl-L-lysine | C1(C=CC(N1)=O)=O.[N+](=O)([O-])[C@](N(C1=CC=CC=C1)[N+](=O)[O-])(CCCCN)C(=O)O | InChI=1S/C12H16N4O6.C4H3NO2/c13-9-5-4-8-12(11(17)18,15(19)20)14(16(21)22)10-6-2-1-3-7-10;6-3-1-2-4(7)5-3/h1-3,6-7H,4-5,8-9,13H2,(H,17,18);1-2H,(H,5,6,7)/t12-;/m1./s1
